US07541374B2
9.30 g of 3-(pentafluoroethyl)-1H-pyrazole was suspended to 90 ml of water, and 6.0 g of 50% aqueous solution of sodium hydroxide was added to the suspension. The mixture was cooled to 0° C., then 8.79 g of bromine was added to the mixture, followed by stirring at room temperature for 7 hours. The reaction mixture was extracted by ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium salfate, filtered, and concentrated under reduced pressure to obtain 13.72 g of 4-bromo-3-(pentafluoroethyl)-1H-pyrazole.

reactant | 3-(pentafluoroethyl)-1H-pyrazole | 9.30 g | FC(C(F)(F)F)(C1=NNC=C1)F | C5H3F5N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | bromine | 8.79 g | BrBr | Br2
solvent | water | 90 ml | O | H2O
product | 4-bromo-3-(pentafluoroethyl)-1H-pyrazole | 13.72 g | BrC=1C(=NNC1)C(C(F)(F)F)(F)F | C5H2BrF5N2
